US05298660
4.44 g (0.0222 mole) of (R)-(+)-1-(p-bromophenyl)ethylamine and 2.85 g (0.0233 mole) of p-hydroxybenzaldehyde were dissolved in 30 ml of ethyl alcohol, and the solution thus formed was stirred under reflux for 3 hours. After the completion of the reaction, the reaction mixture was concentrated under reduced pressure, and refined by a column chromatography using 30 g of silica gel to give 6.75 g of (-)-N-(p-hydroxybenzylidene)-1-(p-bromophenyl)ethylamine.

reactant | (R)-(+)-1-(p-bromophenyl)ethylamine | 0.0222 mole, 4.44 g | BrC1=CC=C(C=C1)[C@@H](C)N | C8H10BrN
reactant | p-hydroxybenzaldehyde | 0.0233 mole, 2.85 g | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | ethyl alcohol | 30 ml | C(C)O | C2H6O
product | (-)-N-(p-hydroxybenzylidene)-1-(p-bromophenyl)ethylamine | 6.75 g, Yield: 97.9% | OC1=CC=C(C=NC(C)C2=CC=C(C=C2)Br)C=C1 | C15H14BrNO
